US07939666B2
Stage 2: (S)-7-Nitro-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid-2-tert-butyl ester
(S)-7-Nitro-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid (7 g, 31.5 mmol) was dissolved in THF:water (1:1, 350 ml). K2CO3 was added (5.2 g, 37 mmol) followed by boc anhydride (13.7 g, 63 mmol) and the solution heated at 40° C. for 1 h. THF was removed by evaporation and the aqueous layer adjusted to pH=7 before extraction with EtOAc. The organic layer was washed 0.1 M HCl (×3) and dried over Na2SO4 before concentration in vacuo. The required N-protected product was obtained following column chromatography (EtOAc:heptane 2:3→EtOAc), (7.5 g, 74%), LCMS purity 92%, molecular ion not observed

reactant | (S)-7-Nitro-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid | 31.5 mmol, 7 g | [N+](=O)([O-])C1=CC=C2C[C@H](NCC2=C1)C(=O)O | C10H10N2O4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | boc anhydride | 63 mmol, 13.7 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | THF water | 350 ml | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-7-Nitro-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid-2-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C[C@H]1C(=O)O)[N+](=O)[O-] | C15H18N2O6
